* C:\Users\HP\Documents\source\monochr\doc\LTspice\trigger.asc
XDD6 N005 N002 N001 0 N004 AD8605
R5 N004 N005 100k
R3 N003 N005 100k
R6_VARIABLE N005 0 2k
V3V3 N001 0 3.3
V5_VDD N003 0 5
V§INPUT N002 0 SINE(0 1 1)
.tran 1
.lib ADI.lib
.backanno
.end
